US07285558B2
4-(Bromomethyl)-6-chloroquinoline was prepared from 6-chloroquinoline-4-carbaldehyde following the procedure described in the preparation of 1-(bromomethyl)naphthalene.

reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | 1-(bromomethyl)naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 4-(Bromomethyl)-6-chloroquinoline | BrCC1=CC=NC2=CC=C(C=C12)Cl | C10H7BrClN
